US07446118B2
To a stirring solution of 4-Bromo-3-methoxy-indazole-1-carboxylic acid ethyl ester CLXXXV (1.27 g, 4.14 mmol) in THF (28 ml) and H2O (9 ml) was added LiOH (397 mg, 16.6 mmol). The reaction mixture was stirred at reflux for 2 hours then at room temperature for 15 hours. The mixture was concentrated. The residue was diluted with EtOAc (50 ml), washed with HCl (1M) and brine, dried over MgSO4, filtered and concentrated affording 4-Bromo-3-methoxy-1H-indazole CLXXXVI as an off-white solid (98% yield), which was used without further purification in the next step.

reactant | 4-Bromo-3-methoxy-indazole-1-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C(C2=C(C=CC=C12)Br)OC | C11H11BrN2O3
reactant | H2O | 9 ml | O | H2O
reactant | LiOH | 16.6 mmol, 397 mg | [Li+].[OH-]
solvent | THF | 28 ml | C1CCOC1 | C4H8O
product | 4-Bromo-3-methoxy-1H-indazole | BrC1=C2C(=NNC2=CC=C1)OC | C8H7BrN2O
